US07799782B2
5-Bromoindazole (Bioorg. Med. Chem. Lett., 11:1153-1156 (2001)) (3.94 g, 20.0 mmol), allyl bromide (2.6 mL, 30 mmol) and potassium carbonate (4.15 g, 30.0 mmol) were heated in DMF (25 mL) at 100° C. for 18 hours. The reaction was cooled, filtered through celite, and the solids were washed with EtOAc. The solution was concentrated to near dryness and then partitioned between EtOAc and water. The organic phase was washed with NaHCO3, dried (MgSO4), concentrated, and purified by column chromatography (silica gel, 7% EtOAc/hexanes) to provide the N1 isomer (faster eluting) 1-allyl-5-bromo-1H-indazole (is) (1.7 g, 36% yield). 1H NMR (400 MHz, CDCl3) δ 7.95 (s, 1H), 7.88 (d, J=2.3 Hz, 1H), 7.44 (dd, J=8.6, 1.6 Hz, 1H), 7.29 (d, J=8.6 Hz, 1H), 6.06-5.97 (m, 1H), 5.24 (dd, J=10.2, 1.6 Hz, 1H), 5.12 (d, J=16.4 Hz, 1H), 5.01-5.00 (m, 2H); MS (ESI+) m/z 237, 239 (M+H, Br pattern) detected; HPLC (5 to 95%) 2.98 min.

reactant | 5-Bromoindazole | 20.0 mmol, 3.94 g | BrC=1C=C2C=NNC2=CC1 | C7H5BrN2
reactant | allyl bromide | 30 mmol, 2.6 mL | C(C=C)Br | C3H5Br
reactant | potassium carbonate | 30.0 mmol, 4.15 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | 1-allyl-5-bromo-1H-indazole | 1.7 g, 36% yield | C(C=C)N1N=CC2=CC(=CC=C12)Br | C10H9BrN2
